US07288544B2
3) Synthesis of 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy) methyl]-2-phenylpyrimidine-5-carboxylic acid 3,3-diphenylpropyl ester:
89.8 mg (0.14 mmol) of 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy) methyl]-2-phenyl-1,4-dihydropyrimidine-5-carboxylic acid 3,3-diphenylpropyl ester and 94.3 mg (0.42 mmol) of 2,3-dichloro-5,6-dicyano-1,4-benzochinon (DDQ) were refluxed in 20 ml of benzene for 3 hours. After adding water, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=9/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy) methyl]-2-phenyl-1,4-dihydropyrimidine-5-carboxylic acid 3,3-diphenylpropyl ester | 0.14 mmol, 89.8 mg | C1(=CC=CC=C1)C(CCOC(=O)C=1C(N=C(NC1COCCC1CCCCC1)C1=CC=CC=C1)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C41H43ClN2O3
reactant | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 4-(3-chlorophenyl)-6-[(2-cyclohexylethoxy) methyl]-2-phenylpyrimidine-5-carboxylic acid 3,3-diphenylpropyl ester | C1(=CC=CC=C1)C(CCOC(=O)C=1C(=NC(=NC1COCCC1CCCCC1)C1=CC=CC=C1)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C41H41ClN2O3
